### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Acyclic): a nontrivial finite tree has at least two leaves

### PR DESCRIPTION
**Pull request by SnirBroshi**
Generalizes [`IsTree.exists_vert_degree_one_of_nontrivial`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Acyclic.html#SimpleGraph.IsTree.exists_vert_degree_one_of_nontrivial).

Co-authored-by: robo7179 <abhinavn004@gmail.com>

---
This adopts #35017 since the author hasn't responded in a few months, I don't want this lemma to fall through the cracks, and most of this code was [written by me](https://github.com/leanprover-community/mathlib4/pull/35017#issuecomment-4159631563).

Also golfed the 1 leaf version with `grind`, elab time increased from ~12ms to ~52ms.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean [hunk 1]
```diff
@@ -510,10 +510,25 @@ lemma IsTree.minDegree_eq_one_of_nontrivial (h : G.IsTree) [Fintype V] [Nontrivi
...
-  exact h.minDegree_eq_one_of_nontrivial
+  grind [G.exists_minimal_degree_vertex, minDegree_eq_one_of_nontrivial]
+
+/-- A nontrivial finite tree has at least two leaves. -/
+theorem IsTree.exists_ne_and_degree_eq_one [Nontrivial V] [Finite G.edgeSet] [G.LocallyFinite]
+    (h : G.IsTree) : ∃ u v, u ≠ v ∧ G.degree u = 1 ∧ G.degree v = 1 := by
+  have ⟨u, v, p, hp, hmax⟩ := exists_isPath_forall_isPath_length_le_length G
+  have ⟨u', v', hne⟩ := exists_pair_ne V
+  have ⟨p', hp'⟩ := h.connected.exists_isPath u' v'
+  have hnil : ¬p.Nil := by grind [length_eq_zero_iff, not_nil_of_ne]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Perhaps length_eq_zero_iff should be `grind =` and `not_nil_of_ne` should be `grind .`?

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Combinatorics/SimpleGraph/Acyclic.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Acyclic.lean]: Thanks!
I've tagged [`Nil.eq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Walk/Basic.html#SimpleGraph.Walk.Nil.eq) which is the contrapositive of [`not_nil_of_ne`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/SimpleGraph/Walk/Basic.html#SimpleGraph.Walk.not_nil_of_ne), but for [`length_eq_zero_iff`](https://loogle.lean-lang.org/?q=SimpleGraph.Walk.length_eq_zero_iff) using `=` doesn't seem to work.
These are the `grind` patterns:
```
  [apply] [grind =] for pattern: [@length #4 #3 #2 #1 #0, @OfNat.ofNat `[ℕ] `[0] `[instOfNatNat 0]]
  [apply] [grind =_] for pattern: [@Nil #4 #3 #2 #1 #0]
  [apply] [grind .] for pattern: [@length #4 #3 #2 #1 #0]
```
so `=` requires `0` somewhere (although it doesn't seem to fire even with a `have : p.length = 0` in the locals), and `=_` also seems useful but doesn't work, but `grind .` does so I chose it.
Is that okay?

**Comment by SnirBroshi** [comment]
Thank you!

bors merge
